US06384080B1
To a suspension of 2-fluoro-5-nitrobenzoic acid (313 mg) in dichloromethane (4 mL) were added thionyl chloride (0.17 mL) and dimethylformamide (0.05 mL), and the mixture was heated for 36 hours under reflux. After evaporation of the solvent, the residue was dissolved in dichloromethane (4 mL). To this solution were added benzylamine (0.19 mL) and triethylamine (0.47 mL), and the mixture was stirred for 30 minutes at 0° C. After evaporation of the solvent, the residue was dissolved in ethyl acetate and washed successively with diluted hydrochloric acid, an aqueous sodium bicarbonate solution and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The resulting residue was triturated with diisopropyl ether to give N-benzyl-2-fluoro-5-nitrobenzamide (436 mg) as a solid substance.

reactant | 2-fluoro-5-nitrobenzoic acid | 313 mg | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | 0.17 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.05 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-benzyl-2-fluoro-5-nitrobenzamide | 436 mg | C(C1=CC=CC=C1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C14H11FN2O3
